US08049015B2
Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester (1.0 g, 2.33 mmol), (5-bromo-pyridin-3-yl)-acetic acid methyl ester (0.535 g, 2.33 mmol), potassium carbonate (0.807 g, 5.8 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.100 g, 0.09 mmol) were combined in DME (8 mL) and H2O (4 mL). The solution was purged with N2, and then the reaction was stirred at 80° C. for 12 hours. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography to give (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester.

reactant | Ethyl-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-carbamic acid tert-butyl ester | 2.33 mmol, 1.0 g | C(C)(C)(C)OC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C21H31BF3NO4
reactant | (5-bromo-pyridin-3-yl)-acetic acid methyl ester | 2.33 mmol, 0.535 g | COC(CC=1C=NC=C(C1)Br)=O | C8H8BrNO2
reactant | potassium carbonate | 5.8 mmol, 0.807 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.09 mmol, 0.100 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid methyl ester | COC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OC(C)(C)C)=O | C23H27F3N2O4
